US04463163
Preparation of 4,4'-bis(4-hydroxyphenyl thio)biphenyl (HPSB)
Potassium carbonate (75.9 g, 0.55 mol) was charged to a 2 liter flask equipped with a stirrer, condenser, dropping funnel, thermometer and nitrogen purge. Dimethylformamide (200 ml) was added and the solution heated to 80°-90° C. 4-mercaptophenol (69.3 g, 0.55 mol) in 200 ml of dimethylformamide was added to the stirred reaction mixture over one hour. The reaction mixture was maintained at 100°-110° C. for two hours. Solid 4,4'-dibromobiphenyl (78 g, 0.25 mol) was then added over one hour. The reaction mixture was refluxed for 18 hours, cooled to room temperature, and poured into 10% HCl. The white to yellow solid was collected with suction and washed with water. The solid was treated with 5-10% NaOH and filtered once more with suction. The mother liquor was acidified to pH≈2 and the solid collected and recrystallized from chlorobenzene/methanol. A 34% yield of pure HPSB was obtained having a melting point of 214°-217° C.

reactant | Potassium carbonate | 0.55 mol, 75.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-mercaptophenol | 0.55 mol, 69.3 g | SC1=CC=C(C=C1)O | C6H6OS
reactant | 4,4'-dibromobiphenyl | 0.25 mol, 78 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)Br | C12H8Br2
reactant | HCl | Cl | ClH
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 4,4'-bis(4-hydroxyphenyl thio)biphenyl | 34% yield | OC1=CC=C(C=C1)SC1=CC=C(C=C1)C1=CC=C(C=C1)SC1=CC=C(C=C1)O | C24H18O2S2
